* C:\Users\j3\Desktop\IE_fotos\Filtro_Passa_Baixa_fc_200hz_Prática_III.asc
XU1 N005 N004 N002 opamp Aol=100K GBW=10Meg
C1 0 N004 10n
C2 N002 N001 10n
R1 N004 N001 3.9K
R3 0 N005 10k
R4 N005 N002 12k
R2 N001 N003 3.9K
V1 N003 0 SINE(0 1 10K) AC 1
.lib opamp.sub
.tran 2m
.backanno
.end
